US08541418B2
Following the procedure according to WO 2005/079799 (the disclosure of which is hereby incorporated by reference with respect to this synthesis), 1-benzyl 4-tert-butyl 2-methyl piperazine-1,2,4-tricarboxylate (II-JJ, 1.1 g, 2.9 mmol) was dissolved in 6 mL of dry THF and cooled to −78° C. Potassium hexamethyldisilazane (0.5M solution in toluene, Aldrich, 10 mL, 5.0 mmol) was added by syringe, and the reaction mixture stirred at −78° C. for 75 min. Ethyl trifluoromethanesulfonate (0.65 mL, 5.0 mmol) was added dropwise by syringe to this mixture, and then the reaction was allowed to warm to rt for 5 h. The reaction was quenched with saturated sodium bicarbonate solution, and the mixture was extracted twice with ethyl acetate. The combined organics were dried with MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (0-10% methanol/DCM gradient elution) gave 1-Benzyl 4-tert-butyl 2-methyl 2-ethylpiperazine-1,2,4-tricarboxylate (compound III-JJ) as a yellow oil, approximately 5:1 ratio of methyl and ethyl esters (1.06 g): LCMS: [M+Na]+=429.2 (60%); [M-Boc+H]+=307.1 (100%).

reactant | 1-benzyl 4-tert-butyl 2-methyl piperazine-1,2,4-tricarboxylate | 2.9 mmol, 1.1 g | N1(C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C19H26N2O6
reactant | Potassium hexamethyldisilazane | 5.0 mmol, 0.5M, 10 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | Ethyl trifluoromethanesulfonate | 5.0 mmol, 0.65 mL | FC(S(=O)(=O)OCC)(F)F | C3H5F3O3S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-Benzyl 4-tert-butyl 2-methyl 2-ethylpiperazine-1,2,4-tricarboxylate | C(C)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC | C21H30N2O6
